US04341780
2-trans-(2-phenyl-ethenyl)-3-methyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid (0.8 g) was reacted with methyl iodide (0.55 g) and anhydrous K2CO3 (0.65 g) in dmethylformamide (7 ml) under stirring at room temperature for 4 hours. After dilution with ice water the precipitate was filtered off: crystallization from acetone gave 0.5 g of 2-trans-(2-phenyl-ethenyl)-3-methyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester, m.p. 164°-165° C. By proceeding analogously the following compound were prepared:

reactant | 2-trans-(2-phenyl-ethenyl)-3-methyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid | 0.8 g | C1(=CC=CC=C1)/C=C/C=1N=C2N(C(C1C)=O)C1C(C=C2)(C(=O)O)C1 | C19H16N2O3
reactant | methyl iodide | 0.55 g | CI | CH3I
reactant | K2CO3 | 0.65 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-trans-(2-phenyl-ethenyl)-3-methyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester | 0.5 g | C1(=CC=CC=C1)/C=C/C=1N=C2N(C(C1C)=O)C1C(C=C2)(C(=O)OC)C1 | C20H18N2O3
